US05153214
The commercially available p-chlorophenylsulfonyl isocyanate (15.0 g, 58.6 mmol) is added dropwise to t-butanol (90 ml) and the mixture is allowed to stir at room temperature for 60 hours. The solvent is evaporated and the white solid is recrystallized from hexane and ethylacetate to obtain N-t-butoxycarbonyl-p-chlorophenylsulfonamide, m.p. 98°-99° C.

reactant | p-chlorophenylsulfonyl isocyanate | 58.6 mmol, 15.0 g | ClC1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | t-butanol | 90 ml | C(C)(C)(C)O | C4H10O
product | N-t-butoxycarbonyl-p-chlorophenylsulfonamide | C(C)(C)(C)OC(=O)NS(=O)(=O)C1=CC=C(C=C1)Cl | C11H14ClNO4S
